US07129271B2
Nootkatol.
Colorless oil. MW=220. High Resolution MS revealed mass (220.18165) and formula (C15H24O). C15H24O requires 220.18272. [α]589+41.3 (C 1.52 in chloroform). Rf 0.43(in hexane/ethyl acetate), 0.4(in hexane/diethyl ether 50:50 v/v), 0.74(in dichloromethane/diethyl ether 50:50 v/v). MS (70ev), m/z 220([M+]100), 203(21), 187(4), 177(60), 162(6), 138(13), 121(20), 107(21), 93(22), 81(16), 67(13). 13C NMR (ppm): 150.6, 146.5, 124.7, 108.9, 68.4, 45.0, 41.2, 39.7, 38.6, 37.6, 33.3, 32.8, 21.2, 18.6, 15.8. 1H NMR(δ): 0.89(3H, d, J=6.9 Hz), 0.95(1H,J=2.7 Hz?), 0.99(3H, s), 1.20(1H, dm, J=4.3 Hz), 1.37(1H, td, J=12.4, 10.0 Hz), 1.51(1H, m, J=2.1), 1.71(3H, s), 1.76(1H, td, J=2.0, 6.5 Hz), 1.79(1H, dd, J=2.0, 4.5), 1.85(1H, dd, J=12.6, 2.7 Hz), 2.1(1H, ddd, J=14.1, 4.2, 2.6 Hz), 2.25(1H, tt, J=12.4, 3.0 Hz), 2.33(1H, m), 4.25(1H, m), 4.68(2H, m), 5.32(1H, d, J=1.6 Hz).

reactant | hexane diethyl ether | CCCCCC.C(C)OCC
reactant | dichloromethane diethyl ether | ClCCl.C(C)OCC
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Nootkatol | C[C@@H]1C[C@@H](C=C2[C@]1(C[C@@H](CC2)C(=C)C)C)O | C15H24O
